US08003662B2
Step B: Preparation of N-tert-butoxycarbonyl-5-oxo-4-thiapiperidine:
A mechanically-stirred mixture of tert-butyl thiomorpholine-4-carboxylate (243 g, 1.19 mol), MeOH (1.5 L), and H2O (1.5 L) was cooled to 0° C. Solid NaIO4 (280 g, 1.3 mol) was added in portions over a 2 hour period. For convenience, the suspension was stirred for 3 days at room temperature. The solids were filtered, washing with MeOH (3×500 mL). The filtrate was concentrated. Residual water was saturated with solid NaCl, and the aqueous phase was extracted with EtOAc (4×200 mL). The combined organic phases were dried (MgSO4), filtered, and concentrated to obtain the product (255 g, 97%).

reactant | tert-butyl thiomorpholine-4-carboxylate | 1.19 mol, 243 g | N1(CCSCC1)C(=O)OC(C)(C)C | C9H17NO2S
reactant | MeOH | 1.5 L | CO | CH4O
solvent | H2O | 1.5 L | O | H2O
product | N-tert-butoxycarbonyl-5-oxo-4-thiapiperidine | 255 g, 97% | C(C)(C)(C)OC(=O)N1CCSC(C1)=O | C9H15NO3S
